US07323475B2
a) (5-Bromo-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetic acid methyl ester
50.3 g of 4-bromophthalimide, 92.0 g of potassium carbonate, and 24.5 ml of methyl bromoacetate were added to 888 ml of acetone. The resultant mixture was heated to reflux temperature for 24 h, and then cooled to room temperature. The mixture was filtered through a fine glass frit to remove all solid material, and the solution was then concentrated under vacuum to provide 66 g of the desired product, a white solid; 1H NMR (CDCl3): δ=3.76 (s, 3H), 4.43 (s, 2H), 7.71-7.75 (m, 1H), 7.85-7.90 (dd, 1H), 8.00 (m, 1H).

reactant | 4-bromophthalimide | 50.3 g | BrC=1C=C2C(C(=O)NC2=O)=CC1 | C8H4BrNO2
reactant | potassium carbonate | 92.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 24.5 ml | BrCC(=O)OC | C3H5BrO2
solvent | acetone | 888 ml | CC(=O)C | C3H6O
product | (5-Bromo-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetic acid methyl ester | 66 g | COC(CN1C(C2=CC=C(C=C2C1=O)Br)=O)=O | C11H8BrNO4
